US04409214
To a suspension of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (4.3 g) in methylene chloride (100 ml) was added 2,6-lutidine (1.08 g) at 8° C., and the mixture was stirred for a while. To the resultant solution were added 2-(2-methanesulfonamidothiazol-5-yl)acetic acid (2.6 g) and dicyclohexylcarbodiimide (2.06 g) under ice-cooling with stirring, and the stirring was continued at the same temperature for an hour and then at ambient temperature for additional 3.5 hours. After addition of water, the precipitated substance was removed by filtration. The filtrate was washed with 10% hydrochloric acid, and the organic layer was separated out, and washed with a saturated aqueous solution of sodium bicarbonate and an aqueous solution of sodium chloride, followed by drying over anhydrous magnesium sulfate. Removal of the solvent gave a residue, which was washed with diethyl ether to obtain benzhydryl 7-[2-(2-methanesulfonamidothiazol-5-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (1.8 g). The same product (1.8 g) was recovered from the removed substance obtained above. Total yield: 3.6 g.

reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 4.3 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | 2,6-lutidine | 1.08 g | N1=C(C=CC=C1C)C | C7H9N
reactant | 2-(2-methanesulfonamidothiazol-5-yl)acetic acid | 2.6 g | CS(=O)(=O)NC=1SC(=CN1)CC(=O)O | C6H8N2O4S2
reactant | dicyclohexylcarbodiimide | 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | benzhydryl 7-[2-(2-methanesulfonamidothiazol-5-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 1.8 g | CS(=O)(=O)NC=1SC(=CN1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H26N4O6S3
